US04282239
N-(4-[2-(1-Oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-urea
0.3 g of mercury oxide is added to 0.3 g of N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-thiourea (melting point 194°-196° C., prepared from 4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonamide and cyclohexyl mustard oil) in a mixture of 50 ml of water and 50 ml of methanol and the whole is stirred for 3 hours at 40°-45° C. The precipitated mercury sulfide is filtered off with suction, the filtrate is concentrated under reduced pressure, the residue is treated with very dilute ammonia, filtered and the filtrate is acidified with dilute hydrochloric acid. The precipitated N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-2,5-cyclohexyl-urea is recrystallized from dilute acetone and melts at 211°-213° C. The mixed melting point with the compound obtained according to Example 1 is without depression.

reactant | N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-thiourea | 0.3 g | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=S)NC1CCCCC1 | C24H28N4O4S2
reactant | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
catalyst | mercury oxide | 0.3 g | [Hg]=O
product | N-(4-[2-(1-Oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-urea | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1CCCCC1 | C24H28N4O5S
